US05571821
N-Benzenesulfonyl-N-(3-methyl-4-phenyl-5-isoxazolyl)benzenesulfonamide (300 mg, 0.66 mmol) was dissolved in methanol. Potassium hydroxide (300 mg, 5.5 mmol) was added and the solution was warmed to 45° C. to dissolve the sodium hydroxide. Stirring was continued for 20 min. Methanol was removed under reduced pressure. The residue was dissolved in water, cooled to 0° C. and acidified to pH 3-4 with concentrated HCl. The solid precipitate was extracted with ethyl acetate, dried and evaporated in vacuo to give 210 mg (100% yield) of N-(3-methyl-4-phenyl-5-isoxazolyl)benzenesulfonamide, which was further purified by recrystallization from ethyl acetate/hexanes, m.p. 124°-126° C.

reactant | N-Benzenesulfonyl-N-(3-methyl-4-phenyl-5-isoxazolyl)benzenesulfonamide | 0.66 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)(=O)C1=CC=CC=C1)C1=C(C(=NO1)C)C1=CC=CC=C1 | C22H18N2O5S2
reactant | Potassium hydroxide | 5.5 mmol, 300 mg | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-(3-methyl-4-phenyl-5-isoxazolyl)benzenesulfonamide | 210 mg, 100% yield | CC1=NOC(=C1C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C16H14N2O3S
